US07601722B2
In an analogous manner to general procedure V, 1-[(2E)-4-bromobut-2-en-1-yl]-3-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.14 g, 0.33 mmol) was treated with 7N ammonia in methanol to give (2E)-4-[3-(2,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]but-2-en-1-amine which was treated with 1N hydrochloric acid in ether to give hydrochloride salt as a white solid (0.052 g, 40%). MS (ES) m/z 351.9 ([M+H]+).

reactant | 1-[(2E)-4-bromobut-2-en-1-yl]-3-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.33 mmol, 0.14 g | BrC/C=C/CN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)F)F)(=O)=O | C16H13BrF2N2O2S
reactant | ammonia | 7N | N | H3N
solvent | methanol | CO | CH4O
product | (2E)-4-[3-(2,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]but-2-en-1-amine | FC1=C(C=CC(=C1)F)N1S(N(C2=C1C=CC=C2)C/C=C/CN)(=O)=O | C16H15F2N3O2S
